US08975254B2
c) 2-(1-(tert-butyldiphenylsilyloxy)ethyl)thiazole-4-carboxylic acid
A flask containing 3-bromopyruvic acid (317 mg, 1.901 mmol) was put under nitrogen atmosphere. 2-(tert-butyldiphenylsilyloxy)propanethioamide (653 mg, 1.901 mmol) was dissolved in dry THF (8 ml) and added through a septum. The following mixture was refluxed for two hours and then allowed to cool to RT. The solvent was evaporated and extracted with DCM/water and the combined organic phases were evaporated. 1H-NMR (400 MHz; DMSO-d6): δ 1.07 (s, 9H), 1.35 (d, 3H), 5.14 (q, 1H), 7.39-7.54 (m, 2H), 7.57-7.61 (m, 2H), 7.26-7.69 (m, 2H), 8.38 (s, 1H).

reactant | 3-bromopyruvic acid | 1.901 mmol, 317 mg | BrCC(C(=O)O)=O | C3H3BrO3
reactant | 2-(tert-butyldiphenylsilyloxy)propanethioamide | 1.901 mmol, 653 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C(N)=S)C | C19H25NOSSi
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 2-(1-(tert-butyldiphenylsilyloxy)ethyl)thiazole-4-carboxylic acid | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C)C=1SC=C(N1)C(=O)O | C22H25NO3SSi
